US08748380B2
Conjugation of Fluorescein to Albumin and the K573P Variant
Fluorescein-5-Maleimide, Thermo Scientific (F5M) was dissolved in dimethylformamide, to give a final concentration of 25 mg/mL. This was then further diluted into 18 mls of PBS, pH adjusted to approximately pH 6.5. To this solution either 1 ml of 200 mg/mL rHA or 1 mL of 200 mg/mL K573P variant was added. This gave an approximate 20 fold final molar excess of F5M. These samples were incubated and allowed to conjugate overnight at 4° C., in the dark, to allow the maleimide groups on the F5M to react with predominantly the free sulfhydryl, present in both albumin species.

reactant | Fluorescein-5-Maleimide | C1=CC2=C(C=C1N3C(=O)C=CC3=O)C(=O)OC24C5=C(C=C(C=C5)O)OC6=C4C=CC(=C6)O | C24H13NO7
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
